US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, (1R,2S)-(−)-2-hydroxy-indan-1-ylamine and DIEA to give 2-((1R,2S)-2-hydroxy-indan-1-ylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 388 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | (1R,2S)-(−)-2-hydroxy-indan-1-ylamine | O[C@@H]1[C@@H](C2=CC=CC=C2C1)N | C9H11NO
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-((1R,2S)-2-hydroxy-indan-1-ylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | O[C@@H]1[C@@H](C2=CC=CC=C2C1)NC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C22H17N3O2S
